US09193724B2
Cesium carbonate (20.8 g, 0.064 mol) was added to a stirred solution of 5-bromonicotinonitrile (6 g, 0.0322 mol) and cyclopropylboronic acid (2.8 g, 0.032 mol) in a mixture of 1,4-dioxan (100 mL) and water (50 mL). The reaction vessel was purged with argon for 20 min and Pd(dppf)2Cl2.DCM (1.3 g, 0.0016 mol) was added to the reaction mixture. The reaction vessel was purged again with argon for 10 min and subsequently allowed to stir at 100° C. for 3 h. The reaction mixture was filtered through a filter bed of CELITE and the filter bed was thoroughly washed with ethyl acetate (3×200 mL). The collected organic fractions were concentrated under vacuum to afford the crude product, which was purified by silica gel column chromatography to afford 5-cyclopropylnicotinonitrile. MS (M+1): 144.8.

reactant | Cesium carbonate | 0.064 mol, 20.8 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 5-bromonicotinonitrile | 0.0322 mol, 6 g | BrC=1C=NC=C(C#N)C1 | C6H3BrN2
reactant | cyclopropylboronic acid | 0.032 mol, 2.8 g | C1(CC1)B(O)O | C3H7BO2
reactant | DCM | 0.0016 mol, 1.3 g | C(Cl)Cl | CH2Cl2
solvent | 1,4-dioxan | 100 mL | O1CCOCC1 | C4H8O2
solvent | water | 50 mL | O | H2O
product | 5-cyclopropylnicotinonitrile | C1(CC1)C=1C=NC=C(C#N)C1 | C9H8N2
